US06610707B1
(Z)-(2S)-1-[(Cyclohexylmethyl)sulfonyl]-N′2-[3-(dimethylamino)propanoyl]oxy-2-piperidinecarboximidamide
The title compound was prepared by the method of Preparation 5 from (Z)-(2S)-1-[cyclohexylmethylsulfonyl]-N′2-hydroxy-2-piperidinecarboximidamide [see Preparation 28], 3-(dimethylamino)propanoic acid [Papapoulos, et al, WO 9619998A1], N-methyl morpholine, hydroxybenzotriazole hydrate and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride, to afford (Z)-(2S)-1-[(cyclohexylmethyl)sulfonyl]-N′2-[3-(dimethylamino)propanoyl]oxy-2-piperidinecarboximidamide as an oil.

reactant | (Z)-(2S)-1-[cyclohexylmethylsulfonyl]-N′2-hydroxy-2-piperidinecarboximidamide | C1(CCCCC1)CS(=O)(=O)N1[C@@H](CCCC1)/C(/N)=N/O | C13H25N3O3S
reactant | 3-(dimethylamino)propanoic acid | CN(CCC(=O)O)C | C5H11NO2
reactant | N-methyl morpholine | CN1CCOCC1 | C5H11NO
reactant | hydroxybenzotriazole hydrate | O.OC1=CC=CC=2NN=NC21
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | Cl.CN(CCCN=C=NCC)C
product | (Z)-(2S)-1-[(cyclohexylmethyl)sulfonyl]-N′2-[3-(dimethylamino)propanoyl]oxy-2-piperidinecarboximidamide | C1(CCCCC1)CS(=O)(=O)N1[C@@H](CCCC1)/C(/N)=N/OC(CCN(C)C)=O | C18H34N4O4S
